US08076336B2
1-{3-(Pentafluorosulfanyl)-5-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}ethanone
1-[3-Hydroxy-5-(pentafluorosulfanyl)phenyl]ethanone (O3.050; 700 mg) and 2-(2-bromo-ethoxy)tetrahydropyran (670 mg) were dissolved in DMF (15 ml), and sodium hydride (77 mg) was added. After stirring at RT for 2 h, the mixture was heated to 50° C. for 4 h and left to stand over the weekend. Then the DMF was drawn off and the residue was taken up in EA. The EA phase was washed with water, dried, filtered and concentrated. The crude product was purified using silica gel (100 g, n-heptane/EA 4:1). 813 mg of the title compound were obtained.

reactant | 1-[3-Hydroxy-5-(pentafluorosulfanyl)phenyl]ethanone | 700 mg | OC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C8H7F5O2S
reactant | 2-(2-bromo-ethoxy)tetrahydropyran | 670 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | sodium hydride | 77 mg | [H-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-{3-(Pentafluorosulfanyl)-5-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}ethanone | 813 mg | FS(C=1C=C(C=C(C1)OCCOC1OCCCC1)C(C)=O)(F)(F)(F)F | C15H19F5O4S
